US05354486
n-Nonyl-2-methyl-3-(3',5'-di-tert.-butyl-4'-hydroxyphenyl)-propionate
30.6 g of methyl-2-methyl-3-(3',5'-di-tert.-butyl-4'-hydroxyphenyl)-propionate and 14.4 g of n-nonyl alcohol are placed in a 100 ml sulfonating flask and heated to 100° C. 0.2 g of dibutyltin oxide is added and the temperature is increased to 150° C. Methyl alcohol is split off from a temperature of 125° C. The reaction is maintained at 150° C. for 6 hours.

reactant | methyl-2-methyl-3-(3',5'-di-tert.-butyl-4'-hydroxyphenyl)-propionate | 30.6 g | COC(C(CC1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C)C)=O | C19H30O3
reactant | n-nonyl alcohol | 14.4 g | C(CCCCCCCC)O | C9H20O
reactant | dibutyltin oxide | 0.2 g | C(CCC)[Sn](CCCC)=O
product | n-Nonyl-2-methyl-3-(3',5'-di-tert.-butyl-4'-hydroxyphenyl)-propionate | C(CCCCCCCC)OC(C(CC1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C)C)=O | C27H46O3
